US06051712
In an analogous manner to that described in Example 125 (g), by alkylating a 4:1 mixture of tert-butyl (3'RS, 4'RS)-6-(3-benzyloxy-propoxy)-3'-hydroxy-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate and tert-butyl 6-(3-benzyloxy-propoxy)-4'-hydroxy-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate with 2-bromomethylnaphthalene and subsequent separation of the isomers there was obtained tert-butyl (3'RS,4'RS)-6-(3-benzyloxy-propoxy)-3'-(naphthalen-2-ylmethoxy)-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate as a colourless oil; MS: 583 (M+H)+.

reactant | tert-butyl (3'RS, 4'RS)-6-(3-benzyloxy-propoxy)-3'-hydroxy-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=N1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C25H34N2O5
reactant | tert-butyl 6-(3-benzyloxy-propoxy)-4'-hydroxy-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=N1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C25H34N2O5
product | tert-butyl (3'RS,4'RS)-6-(3-benzyloxy-propoxy)-3'-(naphthalen-2-ylmethoxy)-3',4',5',6'-tetrahydro-2'H-[3,4']bipyridine-1'-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=N1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C36H42N2O5
